US06706744B2
3-(4-Formylbenzoylamino)propionic acid methyl ester (10 g, 42.5 mmol) was dissolved in methanol (100 ml). With mechanical stirring a solution of 4-cyclohex-1-enylaniline (7.4 g, 42.5 mmol) in methanol (15 ml) was added and the resulting suspension was stirred at room temperature for 2.5 hours. Sodium cyano borohydride (4.01 g, 63.8 mmol) was added in portions and the resulting mixture was stirred at room temperature for 4 days. Filtration afforded 7.1 g of a solid and recrystallisation from methanol afforded 3.55 g of 3-{4-[(4-cyclohex-1-enylphenylamino)methyl]benzoylamino}propionic acid methyl ester.

reactant | 3-(4-Formylbenzoylamino)propionic acid methyl ester | 42.5 mmol, 10 g | COC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C12H13NO4
reactant | 4-cyclohex-1-enylaniline | 42.5 mmol, 7.4 g | C1(=CCCCC1)C1=CC=C(N)C=C1 | C12H15N
reactant | Sodium cyano borohydride | 63.8 mmol, 4.01 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 3-{4-[(4-cyclohex-1-enylphenylamino)methyl]benzoylamino}propionic acid methyl ester | 3.55 g | COC(CCNC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1=CCCCC1)=O)=O | C24H28N2O3
